US05436229
B) Cbz-N-Me-D-Cha-Pro-OH
To a suspension of KH (19.3 g, 25% suspension in oil, 120 mmol) in tetrahydrofuran (100 mL) at 0° C. was slowly added (over 25 min) a solution of Cbz-D-Cha-Pro-OH (16.8 g, 41.7 mmol) in tetrahydrofuran (50 mL). During this addition period the internal temperature was monitored and maintained at less than 10° C. To this solution was then slowly added a solution of methyl iodide (5 mL, 80 mmol) and 18-crown-6 (661 mg, 2.5 mmol), again maintaining the internal temperature below 10° C. After 2 h acetic acid (10 mL) was added dropwise, followed by water (10 mL). The solution was then poured into cold water and the pH was adjusted to 9 with 2N NaOH. The aqueous base was washed twice with diethyl ether and then acidified to pH 2 with conc. HCl and extracted four times with chloroform. The chloroform extracts were combined, dried over Na2SO4, filtered and concentrated in vacuo to afford 15.7 g (90%) of a pale yellow solid.

reactant | Cbz-D-Cha-Pro-OH | 41.7 mmol, 16.8 g | N([C@H](CC1CCCCC1)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C22H30N2O5
reactant | methyl iodide | 80 mmol, 5 mL | CI | CH3I
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | NaOH | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | 18-crown-6 | 2.5 mmol, 661 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | water | O | H2O
solvent | water | 10 mL | O | H2O
product | Cbz-N-Me-D-Cha-Pro-OH | 15.7 g, 90% | N([C@H](CC1CCCCC1)C(=O)N1[C@H](C(=O)O)CCC1)(C)C(=O)OCC1=CC=CC=C1 | C23H32N2O5
